US04816464
A. 8-Octyl-1,4-dioxa-8-azaspiro[4.5]decane
To a mixture of 15 g (0.105 mol) of 1,4-dioxa-8-azaspiro[4.5]decane, 15.93 g (0.115 mol) of K2CO3, and 100 ml of acetonitrile is added dropwise 18.92 ml (0.105 mol) of iodooctane. The mixture is stirred overnight at room temperature and then at 65° C. for 2 hours. After cooling, the mixture was diluted with water and extracted with methylene chloride. The combined extracts are washed with brine, dried over Na2SO4, and concentrated in vacuo. The residue is triturated with ether and filtered. The filtrate is concentrated in vacuo to yield 24.04 g (90%) of title compound as a clear oil: IR (neat) 2925 and 1094 cm-1 ; NMR (CDCl3) δ3.97 (s, 4H), 2.56 (br, 4H), 2.38 (m, 2H), 1.78 (m, 4H), 1.51 (br, 2H), 1.28 (s, 10H), 0.89 (m, 3H).

reactant | 1,4-dioxa-8-azaspiro[4.5]decane | 0.105 mol, 15 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | K2CO3 | 0.115 mol, 15.93 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
reactant | iodooctane | 0.105 mol, 18.92 ml | ICCCCCCCC | C8H17I
solvent | water | O | H2O
product | 8-Octyl-1,4-dioxa-8-azaspiro[4.5]decane | 24.04 g, 90% | C(CCCCCCC)N1CCC2(OCCO2)CC1 | C15H29NO2
